US07915424B2
5-(5-Chloropyridin-3-ylethynyl)-2-fluorobenzonitrile
Add bis(triphenylphosphine)palladium (II) dichloride (77 mg, 0.11 mmol), copper (I) iodide (42 mg, 0.22 mmol), and 3-chloro-5-ethynylpyridine, (prepared as described in PREPARATION 27), (300 mg, 2.2 mmol) to a solution of 2-fluoro-5-iodobenzonitrile (650 mg, 2.6 mmol) in triethylamine (4.6 mL, 33 mmol) and heat at 60° C. for 6 h. Cool to room temperature and concentrate. Purify by silica gel chromatography, eluting with 50:50 dichloromethane:hexanes to 90:10 dichloromethane:ethyl acetate, followed by a second silica gel chromatography eluting with 95:5 to 75:25 hexanes:ethyl acetate, to give the title compound as an off-white solid (510 mg, 91%).

reactant | 3-chloro-5-ethynylpyridine | 2.2 mmol, 300 mg | ClC=1C=NC=C(C1)C#C | C7H4ClN
reactant | 2-fluoro-5-iodobenzonitrile | 2.6 mmol, 650 mg | FC1=C(C#N)C=C(C=C1)I | C7H3FIN
reactant | triethylamine | 33 mmol, 4.6 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium | 0.11 mmol, 77 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.22 mmol, 42 mg | [Cu]I
product | 5-(5-Chloropyridin-3-ylethynyl)-2-fluorobenzonitrile | 510 mg, 91% | ClC=1C=C(C=NC1)C#CC=1C=CC(=C(C#N)C1)F | C14H6ClFN2
